US06235763B1
5.5 g of N′-(5-chloro-2-methylindan-1-ylidene)-N,N-dimethylhydrazine are emulsified in 100 ml of 2N sulfuric acid and boiled under reflux for 4 h. The cooled reaction mixture is cautiously extracted with ethyl acetate; the organic extract is extracted several times with saturated sodium bicarbonate solution, dried over sodium sulfate, filtered, dried in vacuo and chromatographed on silica gel with ethyl acetate/hetpane ⅕. 5-Chloro-2-methylindan-1-one is obtained as an oil.

reactant | N′-(5-chloro-2-methylindan-1-ylidene)-N,N-dimethylhydrazine | 5.5 g | ClC=1C=C2CC(C(C2=CC1)=NN(C)C)C | C12H15ClN2
reactant | sulfuric acid | 2N, 100 ml | S(O)(O)(=O)=O | H2O4S
product | 5-Chloro-2-methylindan-1-one | ClC=1C=C2CC(C(C2=CC1)=O)C | C10H9ClO
